US05200417
1-[(2-Methylphenyl)amino]isoquinoline hydrochloride
1-Chloroisoquinoline (J. O. C. (1958), 23, 1071) (1.64 g, 0.01 mol) and o-toluidine (1.07 g, 0.01 mol) were heated together at reflux temperature in dry dioxan (20 ml) for 18 hours. After this time a light brown oil had precipitated in the hot solution. After cooling the mixture was evaporated to dryness to give an off-white, sticky solid. This was treated with diethyl ether (50 ml), collected, washed with ether and dried to give a white solid (2.07 g). This solid was crystallised from ethanol/ ether to give the title compound (1.97 g) as its hydrochloride salt, m.p. 229°-231°.

reactant | 1-Chloroisoquinoline | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | o-toluidine | 0.01 mol, 1.07 g | NC=1C(=CC=CC1)C | C7H9N
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 1-[(2-Methylphenyl)amino]isoquinoline hydrochloride | 2.07 g | Cl.CC1=C(C=CC=C1)NC1=NC=CC2=CC=CC=C12 | InChI=1S/C16H14N2.ClH/c1-12-6-2-5-9-15(12)18-16-14-8-4-3-7-13(14)10-11-17-16;/h2-11H,1H3,(H,17,18);1H
